US07939533B2
a) (2RS,5SR)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[6-(2,5-dimethyl-piperazin-1-yl)-4-(4-fluoro-2-methyl-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide
A mixture of 0.20 g (0.38 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-N-[6-chloro-4-(4-fluoro-2-methyl-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide, 87 mg (0.75 mmol) (2RS,5SR)-dimethyl-piperazine, 0.01 g (0.03 mmol) cetyltrimethyl-ammonium bromide, 0.01 g (0.02 mmol) bis(tri-t-butylphosphine)palladium(0), 0.075 ml NaOH 50% and 3 ml toluene was degassed by two freeze-thaw cycles. The reaction mixture was heated under argon at 90° C. for 48 h. After cooling to room temperature the mixture was diluted with water and brine and extracted with three portions of tert-butyl methyl ether. The combined organic layers were dried over sodium sulphate and concentrated in vacuo. Flash column chromatography gave 96 mg (42%) of the title compound as a light yellow solid.

reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-N-[6-chloro-4-(4-fluoro-2-methyl-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide | 0.38 mmol, 0.20 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)Cl)(C)C)(F)F | C25H20ClF7N2O
reactant | NaOH | 0.075 ml | [OH-].[Na+]
reactant | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
catalyst | cetyltrimethyl-ammonium bromide | 0.03 mmol, 0.01 g | [Br-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
catalyst | bis(tri-t-butylphosphine)palladium(0) | 0.02 mmol, 0.01 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | (2RS,5SR)-2-(3,5-Bis-trifluoromethyl-phenyl)-N-[6-(2,5-dimethyl-piperazin-1-yl)-4-(4-fluoro-2-methyl-phenyl)-pyridin-3-yl]-N-methyl-isobutyramide | 96 mg, 42% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1C(CNC(C1)C)C)(C)C)(F)F | C31H33F7N4O
